US05583092
Chlorocarbonyl sulphenyl chloride (13.2 g, 0.10 mol) is added dropwise to a stirred solution of 4-methoxybenzamide (13.8 g, 0.091 mol) under dry nitrogen at room temperature. When the addition is complete, the mixture is refluxed for 8 hours, during which time hydrogen chloride gas is evolved. The solution is allowed to cool to room temperature and the solvent is removed in vacuo. The residue is triturated with methyl tert.-butyl ether and the crystalline solid is filtered off and dried, to give 5-(4-methoxyphenyl)-[1,3,4]oxathiazolin-2-one (12.2 g, 64%) as colourless crystals, m.p. 117°-118° C.

reactant | Chlorocarbonyl sulphenyl chloride | 0.10 mol, 13.2 g | ClC(=O)SCl | CCl2OS
reactant | 4-methoxybenzamide | 0.091 mol, 13.8 g | COC1=CC=C(C(=O)N)C=C1 | C8H9NO2
reactant | hydrogen chloride | Cl | ClH
product | 5-(4-methoxyphenyl)-[1,3,4]oxathiazolin-2-one | 12.2 g, 64% | COC1=CC=C(C=C1)C1=NSC(O1)=O | C9H7NO3S
